US08492582B2
Acetaldehyde (0.016 mL), acetic acid (0.024 mL), and sodium triacetoxyborohydride (0.11 g) were sequentially added to a methylene chloride (1.0 mL) suspension of tert-butyl 2-(2-hydroxy-5-(piperidin-4-yl)benzamido)-4-phenylbenzoate (0.10 g), followed by stirring at room temperature for 1 hour. Acetaldehyde (0.016 mL) and sodium triacetoxyborohydride (0.11 g) were sequentially added to the reaction mixture, followed by stirring at room temperature for 2 hours. The solvent was evaporated under reduced pressure, and ethyl acetate was added to the residue. After removal of the insoluble substance by filtration, a saturated aqueous solution of sodium bicarbonate was added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-90% chloroform/methanol] to obtain 0.045 g of tert-butyl 2-(5-(1-ethylpiperidin-4-yl)-2-hydroxybenzamido)-4-phenylbenzoate as a light yellow solid.

reactant | Acetaldehyde | 0.016 mL | C(C)=O | C2H4O
reactant | acetic acid | 0.024 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | tert-butyl 2-(2-hydroxy-5-(piperidin-4-yl)benzamido)-4-phenylbenzoate | 0.10 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCNCC1 | C29H32N2O4
reactant | Acetaldehyde | 0.016 mL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 0.11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(5-(1-ethylpiperidin-4-yl)-2-hydroxybenzamido)-4-phenylbenzoate | 0.045 g | C(C)N1CCC(CC1)C=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)O | C31H36N2O4
